US07687508B2
To 460 mg (10 mmol) of formic acid, acetic anhydride (204 mg, 2 mmol) was added. The mixture was stirred at room temperature for 2 h. Then one fifth of the above solution was added to a mixture of benzyl (S)-1-((1S,2R,4R)-2-amino-4-(isopropyl(methyl)amino)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate (60 mg, 0.149 mmol) in dichloromethane (3 ml) and triethylamine (62.3 μl, 3 eq) at 0° C. with stirring. The reaction was stirred for 1 h at room temperature and 1 ml of water was added to quench the reaction. The mixture was diluted with dichloromethane (60 ml) and washed with saturated NaHCO3 (20 ml). The solution was dried over anhydrous Na2SO4, filtered, and concentrated in vacuo to give benzyl (S)-1-((1S,2R,4R)-2-formamido-4-(isopropyl(methyl)amino)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate (50 mg, 78%). LC/MS found [M+H]+=431.

reactant | benzyl (S)-1-((1S,2R,4R)-2-amino-4-(isopropyl(methyl)amino)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate | 0.149 mmol, 60 mg | N[C@H]1[C@H](CC[C@H](C1)N(C)C(C)C)N1C([C@H](CC1)NC(OCC1=CC=CC=C1)=O)=O | C22H34N4O3
reactant | triethylamine | 62.3 μl, 3 eq | C(C)N(CC)CC | C6H15N
reactant | water | 1 ml | O | H2O
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | benzyl (S)-1-((1S,2R,4R)-2-formamido-4-(isopropyl(methyl)amino)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate | 50 mg, 78% | C(=O)N[C@H]1[C@H](CC[C@H](C1)N(C)C(C)C)N1C([C@H](CC1)NC(OCC1=CC=CC=C1)=O)=O | C23H34N4O4
